US07943655B2
A solution of NaOH (6.5 g, 153.6 mmol; assay=94.52%), water (157 ml), ethanol (157 ml, technical grade, contains ˜5% 2-propanol) and Trandolapril (31.5 g, 72.94 mmol; assay=99.7%) was stirred at an internal temperature ranging from about 20° C. to about 25° C. for 15 hours. After an in-process control showed an almost complete saponification (by HPLC), the clear solution was concentrated in vacuo to an amount of 167.05 g, and n-butanol (160 ml) was added to the concentrated product. This mixture was heated to an internal temperature ranging from about 60° C. to about 70° C., and 2N aqueous hydrochloric acid was added (150.4 mmol), whereupon the pH dropped down from 12.09 to 3.66. The organic layer was separated at an internal temperature of 66° C., and the aqueous layer was extracted again with n-butanol (80 ml) at an internal temperature of 65° C. The combined organic layers were washed twice with water (each 40 ml) at an internal temperature ranging from about 63° C. to about 65° C. The organic layer then obtained (total amount 306.4 g) was concentrated in vacuo at a temperature ranging from about 50° C. to about 60° C., whereupon after concentration to an amount of 190 g a white solid precipitated. This suspension was further concentrated in vacuo to an amount of 75.1 g, and 80 ml MTBE was added to complete the precipitation. The suspension was stirred at an internal temperature ranging from about 20° C. to about 25° C. for 3.5 hours. After filtration, the wet product was washed twice with MTBE (each 80 ml) and dried in vacuo for 15 hours at 40° C. to give Trandolaprilat as disolvate with n-butanol (yield: 36.51 g, 66.67 mmol, 91.4%; assay (0.1N HClO4)=73.5%; HPLC purity=100%).

reactant | NaOH | 153.6 mmol, 6.5 g | [OH-].[Na+]
reactant | water | 157 ml | O | H2O
reactant | Trandolapril | 72.94 mmol, 31.5 g | CCOC(=O)[C@H](CCC=1C=CC=CC1)N[C@@H](C)C(=O)N2[C@H]3CCCC[C@@H]3C[C@H]2C(=O)O | C24H34N2O5
reactant | n-butanol | 66.67 mmol, 0.1N, yield: 36.51 g | C(CCC)O | C4H10O
solvent | ethanol | 157 ml | C(C)O | C2H6O
product | Trandolaprilat | C[C@@H](C(=O)N1[C@H]2CCCC[C@@H]2C[C@H]1C(=O)O)N[C@@H](CCC=3C=CC=CC3)C(=O)O | C22H30N2O5
